US05624950
To a suspension, cooled to +5° C., of 0.5 g of (3aRS,7RS,7aSR)-7-hydroxy-7-(2-methoxyphenyl)-2-[(2 -methoxyphenyl)acetyl]-4-perhydroisoindolone in 50 cm3 of methanol is added 0.027 g of sodium borohydride. After stirring for 2 hours at 5° C., 0.2 cm3 of 1N hydrochloric acid is added to the reaction solution which is then concentrated to dryness under reduced pressure. The residue is taken up in 50 cm3 of water and 70 cm3 of dichloromethane. After stirring, the suspension obtained is filtered and the organic phase of the filtrate is washed with water and then dried over. magnesium sulphate and concentrated to dryness under reduced pressure (2.7 kPa). 0.42 g of (3aRS,4RS,7SR,7aSR)-4-(2-methoxyphenyl)-2-[(2-methoxyphenyl)acetyl]-4,7-perhydroisoindolediol is obtained in the form of a white foam.

reactant | (3aRS,7RS,7aSR)-7-hydroxy-7-(2-methoxyphenyl)-2-[(2 -methoxyphenyl)acetyl]-4-perhydroisoindolone | 0.5 g | OC1(CCC(C2CN(CC12)C(CC1=C(C=CC=C1)OC)=O)=O)C1=C(C=CC=C1)OC | C24H27NO5
reactant | sodium borohydride | 0.027 g | [BH4-].[Na+]
reactant | hydrochloric acid | 1N, 0.2 cm3 | Cl | ClH
solvent | methanol | 50 cm3 | CO | CH4O
product | (3aRS,4RS,7SR,7aSR)-4-(2-methoxyphenyl)-2-[(2-methoxyphenyl)acetyl]-4,7-perhydroisoindolediol | 0.42 g | COC1=C(C=CC=C1)C1(C2CN(CC2C(CC1)O)C(CC1=C(C=CC=C1)OC)=O)O | C24H29NO5
